US04315766
40 Parts by weight of methyl 3-(1',1',2'-trifluoro-2'-chloroethoxy)-benzoate, in a mixture of 8.4 parts by weight of potassium hydroxide, 100 parts by weight of water and 5 parts by weight of tetrahydrofuran, are stirred for 15 minutes at 95° C. The resulting solution is acidified with concentrated hydrochloric acid and the precipitate formed is filtered off and dried; 35 parts of 3-(1',1',2'-trifluoro-2'-chloroethoxy)benzoic acid of melting point 79°-85° C. are obtained.

reactant | methyl 3-(1',1',2'-trifluoro-2'-chloroethoxy)-benzoate | FC(C(Cl)F)(OC=1C=C(C(=O)OC)C=CC1)F | C10H8ClF3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1',1',2'-trifluoro-2'-chloroethoxy)benzoic acid | FC(C(Cl)F)(OC=1C=C(C(=O)O)C=CC1)F | C9H6ClF3O3
